US08557983B2
4-(4-((4′-chlorobiphenyl-2-yl)methyl)piperazin-1-yl)-2-fluorobenzenesulfonamide
To a solution of 2,4-difluorobenzenesulfonamide (1.56 g) and 1-((4′-chlorobiphenyl-2-yl)methyl)piperazine (2.32 g) in dimethylsulfoxide (20 mL) was added N,N-diisopropylethylamine (5 mL). The mixture was stirred at 120° C. overnight. The mixture was diluted with ethyl acetate (300 mL) and washed with water (3×) brine and dried over Na2SO4. After filtration and evaporation of the solvent, the residue was loaded on a column and eluted with 40% ethyl acetate in hexane to give the title compound.

reactant | 2,4-difluorobenzenesulfonamide | 1.56 g | FC1=C(C=CC(=C1)F)S(=O)(=O)N | C6H5F2NO2S
reactant | 1-((4′-chlorobiphenyl-2-yl)methyl)piperazine | 2.32 g | ClC1=CC=C(C=C1)C1=C(C=CC=C1)CN1CCNCC1 | C17H19ClN2
reactant | N,N-diisopropylethylamine | 5 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dimethylsulfoxide | 20 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 4-(4-((4′-chlorobiphenyl-2-yl)methyl)piperazin-1-yl)-2-fluorobenzenesulfonamide | ClC1=CC=C(C=C1)C1=C(C=CC=C1)CN1CCN(CC1)C1=CC(=C(C=C1)S(=O)(=O)N)F | C23H23ClFN3O2S
